US08216547B2
Tin (IV) chloride (173 μL, 1.48 mmol) was added to a solution of acetyl chloride (124 μL, 1.75 mmol) in dichloromethane (10 mL), at 0° C., and the resulting solution was stirred for 5 min. To the resulting mixture was then added a solution of ethanesulfonic acid benzo[b]thiophen-2-ylamide (325 mg, 1.35 mmol) in dichloromethane (2 mL) at 0° C. The resulting solution was allowed to warm to ambient temperature and then stirred overnight. The resulting solution was treated with water (10 mL), the organic layer separated, dried over sodium sulfate, filtered, and the solvent evaporated in vacuo to yield N-(3-acetyl-benzo[b]thiophen-2-yl)-ethanesulfonamide as a colorless solid. 1H-NMR (DMSO-d6): δ 1.25 (t, 3H), 2.71 (s, 3H), 3.39 (q, 2H), 7.34-7.48 (m, 2H), 7.94 (d, 1H), 8.10 (d, 1H); MS: m/z 284.1 (MH+).

reactant | Tin (IV) chloride | 1.48 mmol, 173 μL | [Sn](Cl)(Cl)(Cl)Cl
reactant | acetyl chloride | 1.75 mmol, 124 μL | C(C)(=O)Cl | C2H3ClO
reactant | ethanesulfonic acid benzo[b]thiophen-2-ylamide | 1.35 mmol, 325 mg | S1C2=C(C=C1NS(=O)(=O)CC)C=CC=C2 | C10H11NO2S2
reactant | water | 10 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | N-(3-acetyl-benzo[b]thiophen-2-yl)-ethanesulfonamide | C(C)(=O)C=1C2=C(SC1NS(=O)(=O)CC)C=CC=C2 | C12H13NO3S2
